US08304444B2
A solution of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride (86 mg, 0.44 mmol) in dichloromethane (1 ml) was added dropwise to a stirred solution of (110 mg, 0.44 mmol) 2-(2,4-dichloro-phenyl)-2-methoxyamino-1-methyl-ethylamine, which was prepared as described in example P4, and triethylamine (50 mg, 0.50 mmol) in dichloromethane (3 ml) at 0° C. The reaction mixture was stirred for 1 hr at ambient temperature then allowed to stand for 1 h. After removal of the solvent the residue was purified by flash chromatography over silica gel (eluant:hexane/ethyl acetate 3:7). 115 mg (64.1% of theory) of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid [2-(2,4-dichlorophenyl)-2-methoxyamino-1-methyl-ethyl]-amide was obtained in the form of a resin as a mixture of diastereomeres.

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.44 mmol, 86 mg | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | 2-(2,4-dichloro-phenyl)-2-methoxyamino-1-methyl-ethylamine | 0.44 mmol, 110 mg | ClC1=C(C=CC(=C1)Cl)C(C(C)N)NOC | C10H14Cl2N2O
reactant | triethylamine | 0.50 mmol, 50 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid [2-(2,4-dichlorophenyl)-2-methoxyamino-1-methyl-ethyl]-amide | 115 mg, 64.1% | ClC1=C(C=CC(=C1)Cl)C(C(C)NC(=O)C=1C(=NN(C1)C)C(F)F)NOC | C16H18Cl2F2N4O2
